US07666868B2
B5. (2{(E)-3-[1-(3-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester
A mixture of 5.4 g (E)-3-[1-(3-bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid with 300 ml DMF and 2.34 g HOBt.H2O and 21.0 ml Triethylamine is stirred at ambient temperature for 0.5 h. Then it is added 8.8 g EDC.HCL and it is stirred again at ambient temperature for 0.5 h. Finally 3.2 g (2-amino-phenyl)-carbamic acid tert-butyl ester are added and the suspension is stirred at ambient temperature for 24 h. The DMF is evaporated and the residue is extracted with ethyl acetate and water. The organic layer is dried over sodium sulfate. The title product is isolated by flash chromatography. By this method 6.3 g of a yellow foam is obtained.

reactant | (E)-3-[1-(3-bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid | 5.4 g | BrC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)O | C13H10BrNO4S
reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
reactant | HOBt | 2.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-amino-phenyl)-carbamic acid tert-butyl ester | 3.2 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
solvent | EDC | 8.8 g
solvent | Triethylamine | 21.0 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
product | (2{(E)-3-[1-(3-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC(=CC=C1)Br)=O)=O | C24H24BrN3O5S
